US09301951B2
Intermediate 31e: tert-butyl 3-((3-((4-(piperidin-1-yl)-2-(6-((3-(trifluoromethyl)benzyl)amino)pyrimidin-4-yl)phenyl)carbamoyl)benzyl)thio)propanoate
A solution of 6-(2-amino-5-(piperidin-1-yl)phenyl)-N-(3-(trifluoromethyl)benzyl)pyrimidin-4-amine (122 mg) in 1.0 mL of dichloromethane was treated with 54 mg of tert-butyl 3-((3-(chlorocarbonyl)benzyl)thio)propanoate. The mixture was stirred overnight. The solvent was evaporated and the residue was purified by silica gel chromatography to give 120 mg of product as a yellow oil.

reactant | 6-(2-amino-5-(piperidin-1-yl)phenyl)-N-(3-(trifluoromethyl)benzyl)pyrimidin-4-amine | 122 mg | NC1=C(C=C(C=C1)N1CCCCC1)C1=CC(=NC=N1)NCC1=CC(=CC=C1)C(F)(F)F | C23H24F3N5
reactant | tert-butyl 3-((3-(chlorocarbonyl)benzyl)thio)propanoate | 54 mg | ClC(=O)C=1C=C(CSCCC(=O)OC(C)(C)C)C=CC1 | C15H19ClO3S
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
product | tert-butyl 3-((3-((4-(piperidin-1-yl)-2-(6-((3-(trifluoromethyl)benzyl)amino)pyrimidin-4-yl)phenyl)carbamoyl)benzyl)thio)propanoate | 120 mg | N1(CCCCC1)C1=CC(=C(C=C1)NC(=O)C=1C=C(CSCCC(=O)OC(C)(C)C)C=CC1)C1=NC=NC(=C1)NCC1=CC(=CC=C1)C(F)(F)F | C38H42F3N5O3S
